US04259338
262.3 g (1 mol) of ethyl p-(2-oxocyclohexyloxy)-benzoate are cooled to 10° and 250 ml of concentrated sulfuric acid are added dropwise in the course of about 2 hours. During this addition, the temperature is kept at between 10° and 20° with an ice-water bath. When the addition has ended, the mixture is stirred at room temperature for a further 3 hours and then poured onto a 2:1 mixture of saturated aqueous sodium carbonate solution and ice. The aqueous phase is extracted once with about 1,000 ml of ether and then a further three times with 300 ml of ether each time and the combined organic phases are washed four times with 300 ml of 2 N sodium hydroxide solution each time, dried over sodium sulfate and evaporated under a waterpump vacuum. The oily residue is purified by filtration over a layer of silica gel, chloroform being used as the solvent and eluting agent. After evaporating off the chloroform, ethyl 6,7,8,9-tetrahydro-2-dibenzofurancarboxylate is obtained as a yellowish oil.

reactant | ethyl p-(2-oxocyclohexyloxy)-benzoate | 1 mol, 262.3 g | O=C1C(CCCC1)OC1=CC=C(C(=O)OCC)C=C1 | C15H18O4
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | sulfuric acid | 250 ml | S(O)(O)(=O)=O | H2O4S
product | ethyl 6,7,8,9-tetrahydro-2-dibenzofurancarboxylate | C1=C(C=CC=2OC3=C(C21)CCCC3)C(=O)OCC | C15H16O3
